US07420059B2
To a solution of Red-Al (65 wt. % in toluene, 2480 g, 7.95 mol) in anhydrous toluene (5.5 L) at −10° C. was added a pre-mixed solution of Part B methyl 4-(4-fluorophenyl)-2-isopropyl-7-oxo-5,6,7,8-tetrahydro-[1,8]naphthyridine-3-carboxylate (1107 g, 3.23 mol) over a period of 75 min, while the temperature was maintained between 0 to 5° C. Once the reaction was complete as monitored by HPLC, the reaction mixture was quenched with a cold Rochelle's salt solution (10%, 3.0 L), and toluene (2.5 L) was added. The two phases were separated, and the organic layer was washed with NaH2PO4 (5%, 2×2.0 L), water (2.0 L), and brine (50%, 2.0 L). The organic layer was distilled under reduced pressure to remove THF and water until a volume of 9.5 L was obtained. A solution of 3,5-lutidine (2.0 L, 17.9 mol) was added over a period of 15 min, followed by a solution of methanesulfonic anhydride (1.30 kg, 7.46 mol) in CH2Cl2 (3.0 L). The reaction was stirred at ambient temperature for 3 days. The reaction mixture was then quenched by adding water (5.0 L). The organic phase was separated, washed with NaH2PO4 (5%, 5.0 L), NaHCO3 (5%, 5.0 L), and brine (50%, 5.0 L). The solvent was removed under reduced pressure to give an oil which was dried under vacuum overnight. The crude solid thus obtained was dissolved in i-PrOH/H2O (85:15, 5.0 L), heated to 75° C. and gradually cooled to 0° C. over a period of 16 h to afford 947.0 g (78% yield) of methyl 4-(4-fluorophenyl)-2-isopropyl-8-methanesulfonyl-5,6,7,8-tetrahydro-[1,8]naphthyridine-3-carboxylate as a pale yellow solid: mp 160-162° C.; 1H NMR (400 MHz, CDCl3) δ 7.07-7.15 (m, 4H), 3.90 (dd, J=11.2, 5.8 Hz, 2H), 3.60 (s, 3H), 3.47 (s, 3H), 3.04 (septet, J=6.8 Hz, 1H), 2.42 (dd, J=12.7, 6.4 Hz, 2H), 1.88-1.94 (m, 2H), 1.30 (d, J=6.8 Hz, 6H); 13C NMR (100 MHz, CDCl3) δ 168.2, 163.2, 160.8, 159.1, 150.6, 147.4, 132.4, 129.8, 123.5, 116.7, 115.5, 52.4, 45.6, 44.3, 34.1, 25.9, 23.3; HRMS calcd for C19H24FN2O4S (M+1) 407.1441, found 407.1449.

reactant | Red-Al | 7.95 mol, 2480 g | COCCO[AlH2-]OCCOC.[Na+]
reactant | methyl 4-(4-fluorophenyl)-2-isopropyl-7-oxo-5,6,7,8-tetrahydro-[1,8]naphthyridine-3-carboxylate | 3.23 mol, 1107 g | FC1=CC=C(C=C1)C1=C(C(=NC=2NC(CCC12)=O)C(C)C)C(=O)OC | C19H19FN2O3
reactant | 3,5-lutidine | 17.9 mol, 2.0 L | N1=CC(=CC(=C1)C)C | C7H9N
reactant | methanesulfonic anhydride | 7.46 mol, 1.30 kg | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
solvent | toluene | 5.5 L | C1(=CC=CC=C1)C | C7H8
solvent | CH2Cl2 | 3.0 L | C(Cl)Cl | CH2Cl2
solvent | i-PrOH H2O | 5.0 L | CC(C)O.O
product | methyl 4-(4-fluorophenyl)-2-isopropyl-8-methanesulfonyl-5,6,7,8-tetrahydro-[1,8]naphthyridine-3-carboxylate | 947.0 g, 78% yield | FC1=CC=C(C=C1)C1=C(C(=NC=2N(CCCC12)S(=O)(=O)C)C(C)C)C(=O)OC | C20H23FN2O4S
